US09193728B2
Preparation of 3-(5-methyl-2-nitrophenyl)-2-(6-methylpyridin-3-yl)propanenitrile
To a cooled solution of (Z)-3-(5-methyl-2-nitrophenyl)-2-(6-methylpyridin-3-yl)acrylonitrile (6.5 g, 0.0232 mol) in THF (44 mL) and MeOH (135 mL) was added sodium borohydride (1.7 g, 0.0465 mol) at 0° C. under nitrogen atmosphere. After the addition, the reaction mixture was stirred for 2 h at 0° C. After completion of reaction (monitored by TLC), the reaction mixture was diluted with water (100 mL), and extracted with EtOAc (3×150 mL). The organic layer was dried over anhydrous sodium sulfate, and solvent was removed under reduced pressure to obtain product as a yellow colored solid (6 g, 91.7% yield).

reactant | (Z)-3-(5-methyl-2-nitrophenyl)-2-(6-methylpyridin-3-yl)acrylonitrile | 0.0232 mol, 6.5 g | CC=1C=CC(=C(C1)\C=C(/C#N)\C=1C=NC(=CC1)C)[N+](=O)[O-] | C16H13N3O2
reactant | sodium borohydride | 0.0465 mol, 1.7 g | [BH4-].[Na+]
solvent | THF | 44 mL | C1CCOC1 | C4H8O
solvent | MeOH | 135 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 3-(5-methyl-2-nitrophenyl)-2-(6-methylpyridin-3-yl)propanenitrile | 6 g, 91.7% yield | CC=1C=CC(=C(C1)CC(C#N)C=1C=NC(=CC1)C)[N+](=O)[O-] | C16H15N3O2
